US08975265B2
Step 1: 5-(4-phenylacetyl-phenyl)-2-oxa-4-aza-bicyclo[3.1.1]heptan-3-one
A solution of 5-(4-bromo-phenyl)-2-oxa-4-aza-bicyclo[3.1.1]heptan-3-one (prepared according to WO2009/148916, 4 g) in dry THF (60 mL) was cooled to −78° C. and treated with n-BuLi (6.56 mL of a 2.5M solution in hexane) and stirred for 30 minutes at this temperature before addition of further n-BuLi (13.1 mL of a 2.5M solution in hexane). Stirring was continued at this temperature for 30 minutes before a solution of N-methoxy-N-methyl-benzeneacetamide (prepared according to US6407119B1, 4.6 g) in THF (10 mL) was added. After 10 minutes the reaction was quenched with saturated aqueous ammonium chloride solution, extracted with EtOAc and the combined organic phases washed with brine, filtered and concentrated. The residue was triturated with hexane/EtOAc to give the title compound which was used in the next step without further purification.

reactant | 5-(4-bromo-phenyl)-2-oxa-4-aza-bicyclo[3.1.1]heptan-3-one | 4 g | BrC1=CC=C(C=C1)C12NC(OC(C1)C2)=O | C11H10BrNO2
reactant | n-BuLi | [Li]CCCC
reactant | N-methoxy-N-methyl-benzeneacetamide | 4.6 g | CON(C(CC1=CC=CC=C1)=O)C | C10H13NO2
solvent | THF | 60 mL | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 5-(4-phenylacetyl-phenyl)-2-oxa-4-aza-bicyclo[3.1.1]heptan-3-one | C1(=CC=CC=C1)CC(=O)C1=CC=C(C=C1)C12NC(OC(C1)C2)=O | C19H17NO3
